US07612055B2
N-Butyl-4-hydroxy-4-((9R)-16-methoxy-9-methyl-13-oxo-2,12,17-triaza-bicyclo[12.3.1]octadeca-1(17),14(18),15-trien-11-yl)-2-methyl-butyramide
A solution of 16-methoxy-9-methyl-11-(4-methyl-5-oxo-tetrahydro-furan-2-yl)-2,12,17-triaza-bicyclo[12.3.1]octadeca-1(17),14(18),15-trien-13-one (49 mg, 0.12 mmol) in 1.2 ml butylamine is stirred at 50° for 3 h. Excess butylamine is evaporated and the residue purified by chromatography on silica gel to afford the title compound (mixture of diastereomers) as a slightly yellow powder.

reactant | 16-methoxy-9-methyl-11-(4-methyl-5-oxo-tetrahydro-furan-2-yl)-2,12,17-triaza-bicyclo[12.3.1]octadeca-1(17),14(18),15-trien-13-one | 0.12 mmol, 49 mg | COC1=CC=2C(NC(CC(CCCCCCNC(=N1)C2)C)C2OC(C(C2)C)=O)=O | C22H33N3O4
solvent | butylamine | 1.2 ml | C(CCC)N | C4H11N
product | N-Butyl-4-hydroxy-4-((9R)-16-methoxy-9-methyl-13-oxo-2,12,17-triaza-bicyclo[12.3.1]octadeca-1(17),14(18),15-trien-11-yl)-2-methyl-butyramide | C(CCC)NC(C(CC(C1C[C@@H](CCCCCCNC2=NC(=CC(C(N1)=O)=C2)OC)C)O)C)=O | C26H44N4O4
